Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Left Flank Pain
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
___ year old male with no significant past medical history who 
presents to OSH with left flank pain associated with nausea and 
3 episodes of non-bloody emesis after having a mechanical fall 
yesterday morning while getting out of bed.  Denies fevers, 
chest pain, dyspnea, cough, dysuria, melena, hematochezia.  
.
He was noted to have EKG at ___ which was read as 
anterior STEMI with STE in V1-V2 and depressions in inferior 
leads concerning for anterior STEMI.  He was started on heparin 
drip with bolus and given nitroglcyerin which caused transient 
hypotension. He was given morphine as well though no aspirin was 
noted to have been given and no imaging studies were performed.  
He was subsequently transferred to ___ for further evaluation 
and management.
.  
At ___ initial vitals were HR:90 with SBP of 120.  Labs were 
significant for Hct 32.7, WBC 14.6, lactate 4.4 and creatinine 
1.5. A CT torso demonstrated a large left subcapsular renal 
hematoma with active extravasation extending to retroperitoneum. 
An EKG demonstrated mild ST elevations in V1-V2. He was given 
protamin 15mg to reverse his coagulopathy from IV heparin.  A 
Urology consult was placed who recommended q6hr hct and 
admission to the MICU overnight with recommendation for repeat 
CT in the morning and ___ if unstable. He was given 2LNS and 1 
unit of PRBC in the ED and transferred to ___ for further 
evaluation and management.  Cards evaluated the patient and 
thought there was no STEMI and with negative troponins with no 
clinical presentation of chest pain they were not concerned for 
active ischemia. Vitals prior to transfer were 117 140/95 16 
95%RA
.
.  
On arrival to the ICU,  he reports having left flank pain but no 
other complaints.  

 
Past Medical History:
Cath in ___ which was normal

 
Social History:
___
Family History:
unknown
 
Physical Exam:
On admission to ICU:
General: Alert, oriented, no acute distress  
HEENT: Sclera anicteric, MMM, oropharynx clear. Right pupil is 
surgical. 
Neck: supple, JVP not elevated, no LAD  
Lungs: Clear to auscultation bilaterally, no wheezes, rales, 
ronchi  
CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, 
gallops  
Abdomen: CVA tenderness on the left.  soft, non-tender, 
non-distended, bowel sounds present no organomegaly  
GU: foley
Ext: warm, well perfused, 2+ pulses, no clubbing, cyanosis or 
edema 

On transfer to medical floor:
VS: 97 179/81 82 18 96%RA  
GA: somnolent but easily aroused, follows commands, per son pt 
is confused and speaking nonsensically  
HEENT: NC/AT, PERRLA. dry mm. no lymphadenopathy. neck supple.  
Cards: RRR, S1/S2 WNL. no murmurs/gallops/rubs.  
Pulm: limited due to pt's lack of cooperation but grossly CTAB, 
no crackles or rhonchi  
Abd: soft, modrately distended with tenderness to palpation fo 
LUQ. +BS, no HSM appreciated.  
Extremities: wwp, no edema. 2+ pulses in DPs  
Skin: warm and dry  
Neuro/Psych: somnolent, follows commands, moving all extremities 
 

 
Pertinent Results:
___ 06:37PM BLOOD Hct-26.9*
___ 03:31PM BLOOD Hct-27.8*
___ 11:50AM BLOOD Hct-30.9*
___ 07:19AM BLOOD WBC-12.3* RBC-3.62* Hgb-11.4* Hct-33.0* 
MCV-91 MCH-31.6 MCHC-34.6 RDW-13.3 Plt ___
___ 12:10AM BLOOD WBC-14.6* RBC-3.41* Hgb-10.9* Hct-32.7* 
MCV-96 MCH-32.0 MCHC-33.3 RDW-12.5 Plt ___
___ 07:19AM BLOOD ___ PTT-27.0 ___
___ 03:51AM BLOOD ___ PTT-29.8 ___
___ 12:10AM BLOOD ___ PTT-150* ___
___ 07:19AM BLOOD Glucose-104* UreaN-16 Creat-1.5* Na-137 
K-4.5 Cl-110* HCO3-23 AnGap-9
___ 12:10AM BLOOD Glucose-129* UreaN-17 Creat-1.5* Na-135 
K-6.2* Cl-106 HCO3-21* AnGap-14
___ 12:10AM BLOOD ALT-17 AST-59* AlkPhos-45 TotBili-0.5
___ 07:19AM BLOOD CK-MB-3 cTropnT-0.04*
___ 12:10AM BLOOD cTropnT-<0.01
___ 07:19AM BLOOD Albumin-PND Calcium-7.1* Phos-4.1 Mg-1.7
___ 12:10AM BLOOD Calcium-8.2* Phos-4.0 Mg-2.4

Imaging

CTA Chest/AP ___
Large left renal subcapsular hematoma with active extravasation 
extension into the retroperitoneum. In the absence trauma or 
bleeding disorder, further imaging with MRI is recommended one 
the patient is stable to 
exclude an underlying mass lesion such as angiomyolipoma. 

Renal Angiogram ___. Normal arterial anatomy on selective left renal arteriogram. 
2. Specifically, no active arterial extravasation or 
pseudoaneurysm is 
detected to warrant percutaneous transarterial embolotherapy. 

  
TTE ___
The left atrium and right atrium are normal in cavity size. 
There is mild symmetric left ventricular hypertrophy with normal 
cavity size and regional/global systolic function (LVEF>55%). 
The estimated cardiac index is normal (>=2.5L/min/m2). Right 
ventricular chamber size and free wall motion are normal. The 
ascending aorta is mildly dilated. The aortic valve leaflets (3) 
are mildly thickened but aortic stenosis is not present. No 
discrete vegetations are seen. Very mild (1+) aortic 
regurgitation is seen. The mitral valve appears structurally 
normal with trivial mitral regurgitation. The estimated 
pulmonary artery systolic pressure is high normal. There is no 
pericardial effusion. 

IMPRESSION: Very mild aortic regurgitation with mild aortic 
valve sclerosis. Mild symmetric left ventricular hypertrophy 
with preserved global and regional biventricular systolic 
function.

___ ___
No evidence of deep vein thrombosis in the left leg.

FOOT ___
IMPRESSION: No acute fracture.

Video Swallow ___
Aspiration with thin liquids and penetration with 
nectar-thickened liquids 

Video Swallow: ___
IMPRESSION: Aspiration with thin liquids and penetration with 
nectar-thickened liquids, unchanged from prior. 

Discharge
 
Brief Hospital Course:
SUMMARY
___ year old male with no significant past medical history who 
presents to OSH with left flank pain thought to be anterior 
STEMI s/p heparin bolus + gtt complicated by worsening massive 
subcapsular renal bleed extending into retroperitoneum. His 
course was further complicated by EtOH withdrawal and ___. He is 
discharged to rehab with stable, constant flank/abdominal pain 
and waning delirium

BY ISSUE
# retroperitoneal bleed:  CT found to have left subcapsular 
renal hematoma extending into retroperitoneum likely due to 
ruptured renal cyst s/p falling.  Also likely related to heparin 
drip that was started at OSH for possibility of ACS.  Upon 
transfer to ___, the patient's heparin was stopped, HCT 
monitored every 6 hours.  ___ and Urology were both following the 
patient while in the unit. The patient was initially actively 
bleeding while in the unit.  Required 3U PRBCs.  Angiogram on 
___ showed that there was no renal artery stenosis and there 
were no bleeding vessels to embolize.  His pain was controlled 
with with various analgesics and was stable/constant on 
discharge
.
# ___: Cr was 1.5 on admission and peaked at 1.7; baseline Cr 
was normal.  ___ was likely due to prerenal etiology in setting 
of retroperitoneal hematoma.  The patient was fluid resuscitated 
and his creatinine was trended.  Upon transfer out of the MICU, 
his creat had stabilized and was at baseline by time of 
discharge.  
.  
# Alcohol withdrawal: After the RP bleed was stabilized, the 
patient began to show clinical signs of withdrawal, including 
hallucinations, hypertension, and tachycardia.  He was started 
on CIWA scale and given diazepam ___ mg q1h PRN and lorazepam 
1 mg for breakthrough anxiety.  The patient initially had 
hallucinations, which improved after benzo treatment.  The 
patient was also getting precedex for some more sedation.   Upon 
discharge from the MICU, the patient was sundowning and 
delirius, but no longer actively withdrawing.  While in the MICU 
and also on the medical floor, the patient was being seen by 
social work re: alcohol cessation.  Family was also counseled on 
importance of pt's cessation from alcohol.  
.
# sundowning:  The patient started sundowning while in the MICU, 
and was started Zyprexa qhs, and Haldol qhs PRN for agitation. 
All antipsychotics and sedatives were discontinued on the 
medical floor.  Pt continued to have waxing and waning of mental 
status.  He was not acutely agitated but continued to have 
intermittent confusion on the medical floor but was fully 
oriented at the time of discharge

# "Anterior STEMI":  There was concern at OSH for EKG changes 
concerning for STEMI.  The patient was seen by cardiology on 
arrival to ___, and they did not think that the patient was 
having active ischemia.  The heparin drip was then stopped.  
Trop peaked at 0.04, but was not trended.  
.
# Hypertension:  The patient was found to be hypertensive in the 
unit, likely related to the EtOH withdrawal. Angiogram showed 
fully patent renal artery on the side with large hematoma, 
making compression of renal vasculature and subsequent 
hypertension unlikely.  He was initially started on Labetolol 
(in addition to his CIWA protocol) to control his heart rates 
and blood pressures.  However, Labetolol caused the patient to 
become wheezy, and it was discontinued.  He was then switched to 
clonidine patch, which helped both his pressures and his 
sympathetic tone.  Given the question of heart failure (see 
below), the patient was also started on metoprolol.  He was 
started on captopril on the medical floor and transitioned to 
lisinopril upon discharge.     
.
#. Resp distress/? heart failure: The patient had 2 acute 
episodes of wheezing/resp distress while in the MICU in the 
setting of having very elevated blood pressures, likely 
consistent with flash pulmonary edema.  CXR showed evidence of 
increasing volume overload and the patient responded to 
temporary BiPAP and diuresis with Lasix. 
.
# Cellulitis: Pt had left foot pain, erythema, and swelling.  
Initially he was given colchicine for suspected gout. However, 
swelling worsened.  X-ray was negative for fracture; ___ 
negative for DVT. He was started on keflex for presumed 
cellulitis. 

# Aspiration: ___ underwent bedside swallow evaluation that was 
concerning for aspiration.  He underwent video swallow that 
showed aspiration with thin liquids.  This was repeated several 
days later when mental status improved but pt continued to show 
aspiration with thin liquids. He was kept on pureed diet with 
nectar thickened liquids.  He should have a repeat swallow 
evaluation in two weeks. 

TRANSITIONAL
1. Will need f/u Video swallow to determine if aspiration 
resolved ___ week of ___
2. Continue to promote etoh cessation
3. Pain can be managed conservatively with tylenol, tramadol 
prn. Ensure bowel movements.
4. Patient will need PCP follow up to manage high blood pressure
5. His mental status improvement is progressive. He is 
discharged with occasional confusion but fully oriented when 
using a ___ interpreter.
5. He will need urology follow up to be scheduled on discharge 
from your facility.
 
Medications on Admission:
None
 
Discharge Medications:
1. lidocaine 5 %(700 mg/patch) Adhesive Patch, Medicated Sig: 
One (1) Adhesive Patch, Medicated Topical DAILY (Daily).  
2. docusate sodium 100 mg Capsule Sig: One (1) Capsule PO BID (2 
times a day) as needed for constipation.  
3. metoprolol tartrate 50 mg Tablet Sig: One (1) Tablet PO BID 
(2 times a day).  
4. lisinopril 20 mg Tablet Sig: One (1) Tablet PO once a day.  
5. thiamine HCl 100 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
6. folic acid 1 mg Tablet Sig: One (1) Tablet PO DAILY (Daily).  

7. polyethylene glycol 3350 17 gram/dose Powder Sig: One (1) 
unit PO DAILY (Daily) as needed for constipation.  
8. acetaminophen 650 mg/20.3 mL Solution Sig: One (1) tab PO Q6H 
(every 6 hours).  
9. lidocaine 5 %(700 mg/patch) Adhesive Patch, Medicated Sig: 
One (1) Adhesive Patch, Medicated Topical DAILY (Daily).  
10. alum-mag hydroxide-simeth 200-200-20 mg/5 mL Suspension Sig: 
Thirty (30) ML PO TID (3 times a day) as needed for indigestion. 
 
11. cephalexin 250 mg/5 mL Suspension for Reconstitution Sig: 
One (1) tab PO Q6H (every 6 hours) for 4 days.  
12. senna 8.6 mg Tablet Sig: One (1) Tablet PO BID (2 times a 
day) as needed for constipation.  
13. polyethylene glycol 3350 17 gram/dose Powder Sig: One (1) 
unit PO DAILY (Daily) as needed for constipation.  

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
Renal Hematoma
Ethanol withdrawal
Cellulitis
 
Discharge Condition:
Mental Status: Confused - always.
Level of Consciousness: Alert and interactive.
Activity Status: Out of Bed with assistance to chair or 
wheelchair.
 
Discharge Instructions:
Mr. ___,

You were admitted with a kidney bruise and experienced alcohol 
withdrawal. You required two weeks of hospitalization to treat 
these and you were discharged to a rehab to continue to work on 
your strength

NEW MEDICINES
Lisinopril and Metoprolol for blood pressure
Thiamine, Folate for vitamins
Cephalexin for cellulutis
 
Followup Instructions:
___